US08053564B2
3-[2-Amino-3-(2-cyanoethoxy)-2-(2-cyanoethoxymethyl)-propoxy]-propionitrile
Tris(hydroxymethyl)aminomethane (24.2 g, 0.2 mol) was added to a mixture of dioxane (25 ml) and aqueous potassium hydroxide (1.2 g KOH in 3 ml water). Acrylonitrile (40 ml, 0.61 mol) was added dropwise. After 2 h the solution was stood in a cold water bath to moderate any exothermic reaction and stirred for 16 h at RT. The solution was neutralized with dil. HCl and filtered. The oil was dissolved in DCE, dried (MgSO4), filtered and concentrated. The brown oil was purified by chromatography (SiO2, CH2Cl2/MeOH 1% to 4%) to give the title product (26.9 g, 0.096 mol, 48%) as a colourless oil. δH (400 MHz, CDCl3) 3.71 (6H, t, J 6.0), 3.47 (6H, s), 2.63 (6H, t, J 6.0); TLC (CH2Cl2/MeOH 10%) 0.55.

reactant | Tris(hydroxymethyl)aminomethane | 0.2 mol, 24.2 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | potassium hydroxide | 3 ml, 1.2 g | [OH-].[K+]
reactant | Acrylonitrile | 0.61 mol, 40 ml | C(C=C)#N | C3H3N
reactant | HCl | Cl | ClH
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-[2-Amino-3-(2-cyanoethoxy)-2-(2-cyanoethoxymethyl)-propoxy]-propionitrile | 0.096 mol, 26.9 g, 48% | NC(COCCC#N)(COCCC#N)COCCC#N | C13H20N4O3
